US06303628B1
*5-Bromoacetyl-2,3-dihydro-1-benzofuran was prepared from 5-acetyl-2,3-dihydro-1-benzofuran according to the procedure for preparing 3-bromoacetyl-5,6,7,8-tetrahydroisoquinoline described in Example 1.

reactant | 5-acetyl-2,3-dihydro-1-benzofuran | C(C)(=O)C=1C=CC2=C(CCO2)C1 | C10H10O2
reactant | 3-bromoacetyl-5,6,7,8-tetrahydroisoquinoline | BrCC(=O)C=1N=CC=2CCCCC2C1 | C11H12BrNO
product | 5-Bromoacetyl-2,3-dihydro-1-benzofuran | BrCC(=O)C=1C=CC2=C(CCO2)C1 | C10H9BrO2
